US04244961
To a solution of 1 g 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one in 5 ml methanol is added 10 ml 3% hydrochloric acid in methanol. Addition of 200 ml diethyl ether followed by filtration affords 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochoride, mp 137°-140°.

reactant | 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 1 g | C1(=CC=CC2=CC=CC=C12)OCC(CN1CCC2(CNC(O2)=O)CC1)O | C20H24N2O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | 8-[3-(1-naphthyloxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochoride | Cl.C1(=CC=CC2=CC=CC=C12)OCC(CN1CCC2(CNC(O2)=O)CC1)O | InChI=1S/C20H24N2O4.ClH/c23-16(12-22-10-8-20(9-11-22)14-21-19(24)26-20)13-25-18-7-3-5-15-4-1-2-6-17(15)18;/h1-7,16,23H,8-14H2,(H,21,24);1H
